US07459472B2
4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (57 mg) was prepared from 2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine (33 mg, 0.10 mmol) and 4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid (37 mg, 0.1 mmol) following the general procedure A.

reactant | 2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine | 0.10 mmol, 33 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)N | C17H15ClFN3O
reactant | 4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid | 0.1 mmol, 37 mg | C(C)OC1=C(C=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O | C17H12F6O3
product | 4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 57 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1OCC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C34H25ClF7N3O3
